US09108957B2
To a solution of 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepane (3.24 g, 13.8 mmol) in 1,2-dichloroethane (23 ml) was added 1-chloroethyl chloroformate (4.93 g, 34.5 mmol) at room temperature. The mixture was refluxed for 7 hours. The reaction mixture was cooled to room temperature and then methanol (30 ml) was added. The mixture was refluxed for 5 hours and concentrated in vacuo. This crude product was washed with hexane, dried under reduced pressure to afford 6-methyl-[1,4]oxazepane hydrochloride as white solid (1.73 g, 83%).

reactant | 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepane | 13.8 mmol, 3.24 g | COC1=CC=C(CN2CCOCC(C2)C)C=C1 | C14H21NO2
reactant | 1-chloroethyl chloroformate | 34.5 mmol, 4.93 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 30 ml | CO | CH4O
solvent | 1,2-dichloroethane | 23 ml | ClCCCl | C2H4Cl2
product | 6-methyl-[1,4]oxazepane hydrochloride | 1.73 g, 83% | Cl.CC1CNCCOC1 | InChI=1S/C6H13NO.ClH/c1-6-4-7-2-3-8-5-6;/h6-7H,2-5H2,1H3;1H
